US07728150B2
3-(1-Ethyl-5-fluoro-indan-1-yl)-7-nitro-1H-indole
Utilizing 1-ethyl-5-fluoro-indan-1-ol and 7-nitroindole, the title compound is prepared as in example 1. 0.37 g (42%). NMR (400 MHz, CDCl3): δ 0.85 (t, 3H), 2.18 (m, 2H), 2.35 (m, 1H), 2.53 (m, 1H), 3.00 (m, 2H), 6.83 (t, 1H), 6.92 (t, 1H), 7.01 (m, 2H), 7.08 (s, 1H), 7.44 (d, 1H), 8.09 (d, 1H), 9.76 (s, 1H, NH).

reactant | 1-ethyl-5-fluoro-indan-1-ol | C(C)C1(CCC2=CC(=CC=C12)F)O | C11H13FO
reactant | 7-nitroindole | [N+](=O)([O-])C=1C=CC=C2C=CNC12 | C8H6N2O2
product | 3-(1-Ethyl-5-fluoro-indan-1-yl)-7-nitro-1H-indole | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)[N+](=O)[O-] | C19H17FN2O2
